US06455528B1
(1) Methyl 4-Acetamidomethyl-3-nitrobenzoate
To a mixture (mixed acid) of fuming nitric acid (70 ml) and conc. sulfuric acid (70 ml) was added methyl 4-acetamidomethylbenzoate (54 g) at 7-15° C. for 1.5 hr. This reaction mixture was stirred at room temperature for 1 hr and poured into ice water (600 ml). The mixture was extracted with chloroform (300 ml×3). The extract was washed with water, saturated sodium hydrogencarbonate solution and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a yellow oil (75 g). The obtained yellow oil was crystallized from ethyl acetate (50 ml) and recrystallized from hexane/ethyl acetate (1:1, 600 ml) to give the title compound (45.5 g) as pale-yellow crystals.

reactant | nitric acid | 70 ml | [N+](=O)(O)[O-] | HNO3
reactant | sulfuric acid | 70 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl 4-acetamidomethylbenzoate | 54 g | C(C)(=O)NCC1=CC=C(C(=O)OC)C=C1 | C11H13NO3
product | Methyl 4-Acetamidomethyl-3-nitrobenzoate | 75 g | C(C)(=O)NCC1=C(C=C(C(=O)OC)C=C1)[N+](=O)[O-] | C11H12N2O5
